US07423060B2
A mixture of 304.0 mg (1.0 mmol) 5-[1-(4-amino-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester, 120.0 mg (1.0 mmol) m-tolualdehyde and 2 ml ethanol was heated under reflux for 1 h. The solvent was evaporated and 3 ml THF and 315 mg (5.0 mmol) sodium cyanoborohydride were added to the residue. After 18 h 5 ml aqueous ammonium chloride solution and 10 ml water were added. The aqueous phase was extracted with dichloromethane, the combined organic phases were dried over magnesium sulfate, the solvent was evaporated and the residue subjected to silica gel chromatography (ethyl acetate/petrol ether 1:1) to yield 175 mg (0.43 mmol) 5-{1-[4-(3-Methyl-benzylamino)-phenyl]-ethylcarbamoyl}-thiophene-2-carboxylic acid methyl ester.

reactant | 5-[1-(4-amino-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester | 1.0 mmol, 304.0 mg | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC=C(C=C1)N)=O | C15H16N2O3S
reactant | m-tolualdehyde | 1.0 mmol, 120.0 mg | C1(=CC(=CC=C1)C=O)C | C8H8O
reactant | sodium cyanoborohydride | 5.0 mmol, 315 mg | C(#N)[BH3-].[Na+]
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | water | 10 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 5-{1-[4-(3-Methyl-benzylamino)-phenyl]-ethylcarbamoyl}-thiophene-2-carboxylic acid methyl ester | 0.43 mmol, 175 mg | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC=C(C=C1)NCC1=CC(=CC=C1)C)=O | C23H24N2O3S
